US04749379
EXAMPLE 8 Preparation of 2-methoxy-4-methylamino-5-nitrophenol
A solution of 0.1 mol (19.6 g) of 2-methylamino-4,5-methylenedioxy-1-nitrobenzene, prepared according to Example 3, in 80 ml of a 30% strength solution of sodium methylate in methanol is brought for 15 minutes to the refluxing temperature of the methanol. The reaction medium is diluted with 500 ml of water. After the filtrate has been neutralized with acetic acid, the expected product precipitates.

reactant | 2-methylamino-4,5-methylenedioxy-1-nitrobenzene | 0.1 mol, 19.6 g | CNC1=C(C=C2C(=C1)OCO2)[N+](=O)[O-] | C8H8N2O4
reactant | sodium methylate | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
solvent | water | 500 ml | O | H2O
product | 2-methoxy-4-methylamino-5-nitrophenol | COC1=C(C=C(C(=C1)NC)[N+](=O)[O-])O | C8H10N2O4
